US07320972B2
5-Bromo-2-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}phenyl acetate (140.0 mg, 0.223 mmol) was dissolved in acetonitrile (8.0 mL) and 48% hydrofluoric acid (0.8 mL) into a polypropylene Falcon® tube. The reaction was stirred for 4 h at room temperature and then poured into 0.5 M potassium phosphate (50 mL), extracted with 1:1 ethyl acetate-hexane (50 mL), washed with saturated sodium bicarbonate solution (50 mL) and brine (50 mL), dried over sodium sulfate, filtered, concentrated and purified by chromatography (12 g silica gel, 15% to 90% ethyl acetate-hexane) to afford 5-bromo-2-{(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}phenyl acetate (114.5 mg, 100% yield) as a clear foam; Rf 0.11 (1:4 ethyl acetate-hexane).

reactant | 5-Bromo-2-{(2S,3R)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-4-oxo-1-phenylazetidin-2-yl}phenyl acetate | 0.223 mmol, 140.0 mg | C(C)(=O)OC1=C(C=CC(=C1)Br)[C@H]1N(C([C@@H]1CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)=O)C1=CC=CC=C1 | C32H37BrFNO4Si
reactant | hydrofluoric acid | 0.8 mL | F | FH
reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | potassium phosphate | 0.5 M, 50 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | acetonitrile | 8.0 mL | C(C)#N | C2H3N
product | 5-bromo-2-{(2S,3R)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}phenyl acetate | 114.5 mg, 100% yield | C(C)(=O)OC1=C(C=CC(=C1)Br)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=CC=C1 | C26H23BrFNO4
